US07265139B2
A solution of 1-oxo-4,4,6-trimethyl-1,2,3,4-tetrahydronaphthalene (40.0 g, 212 mmol) in dichloromethane (80 mL) was added dropwise at room temperature under argon with vigourous stiring to a suspension of aluminum chloride (56 g, 424 mmol) in dichloromethane (80 mL). Bromine (13 mL, 254 mmol) was then added slowly. The reaction mixture was stirred for 1.5 hours then poured into concentrated hydrochloride acid (6N, 300 mL) and extracted with ether. The organic layer was washed with water, aq NaHCO3, water, brine and dried (Mg2SO4). The residue was purified on silica gel (eluent: 5 to 8% ethyl acetate in hexane) to give 32.2 g of 7-bromo-1-oxo-4,4,6-trimethyl-1,2,3,4-tetrahydronaphthalene (64%). 1H NMR (300 MHz; CDCl3): 1.32 (s, 6 H), 1.94 (t, J=6.9 Hz, 2 H), 2.38 (s, 3 H), 2.64 (t, J=6.6 HZ, 2 H), 7.23 (s, 1 H), 8.06 (s, 1 H).

reactant | 1-oxo-4,4,6-trimethyl-1,2,3,4-tetrahydronaphthalene | 212 mmol, 40.0 g | O=C1CCC(C2=CC(=CC=C12)C)(C)C | C13H16O
reactant | aluminum chloride | 424 mmol, 56 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Bromine | 254 mmol, 13 mL | BrBr | Br2
reactant | hydrochloride | 6N, 300 mL | Cl | ClH
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 7-bromo-1-oxo-4,4,6-trimethyl-1,2,3,4-tetrahydronaphthalene | 32.2 g, 64% | BrC1=C(C=C2C(CCC(C2=C1)=O)(C)C)C | C13H15BrO
